US04935530
n-Butyl lithium (a 2.5M solution in hexane; 30.6 ml, 76.5 mmol) was added to a solution of morpholine (6.66 ml, 76.5 mmol) in tetrahydrofuran (500 ml) at -78° under argon. After 15 minutes, 3-furaldehyde (6.3 ml, 72.8 mmol) was added. After another 20 minutes, sec-butyl lithium (a 1.3M solution in cyclohexane; 59.0 ml, 76.5 mmol) was added dropwise and stirring continued at -78° for about 7 hours before triethylsilylchloride (13.4 ml, 80.1 mmol) was added. Stirring was continued overnight (14 hours) while the cooling bath was allowed to attain room temperature. The solution was poured into ice cold 10% (v/v) hydrochloric acid (100 ml) and after stirring at 0° for 10 minutes, the layers were separated. The aqueous phase was extracted with diethyl ether. All the organic phases were combined, dried (magnesium sulfate) and evaporated down to give an oil, which was distilled under high vacuum to give the 5-triethylsily-3-furaldehyde as a pale yellow oil, boiling point 85°-90°/0.4 torr.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | morpholine | 76.5 mmol, 6.66 ml | N1CCOCC1 | C4H9NO
reactant | 3-furaldehyde | 72.8 mmol, 6.3 ml | O1C=C(C=C1)C=O | C5H4O2
reactant | sec-butyl lithium | C(C)(CC)[Li]
reactant | triethylsilylchloride | 80.1 mmol, 13.4 ml | C(C)[Si](CC)(CC)Cl | C6H15ClSi
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 5-triethylsily-3-furaldehyde | C(C)[Si](C1=CC(=CO1)C=O)(CC)CC | C11H18O2Si
